US07737166B2
6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-77) (100 mg, 0.34 mmol) was dissolved in benzene (3 ml), then 2-tributylstannylthiazole (140 μl, 0.37 mmol) and 2,6-di-tert-butylcresol (1 mg) and bis(triphenylphosphine)palladium(II) dichloride (3 mg, 0.003 mmol) were added, followed by heating under reflux for 20 hours under nitrogen atmosphere. The reaction liquid was cooled, the insoluble matter was separated by filtration through Celite, the solvent was concentrated under reduced pressure. The resulting residue was fractionated with ethyl acetate and water, followed by washing with saturated brine. The obtained organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure. The resulting residue was dissolved in methylene chloride, potassium fluoride (20 mg) and water (0.1 ml) were added, followed by vigorously stirring at room temperature for 30 hours. The insoluble matter was separated by filtration through Celite, followed by fractionation with methylene chloride and water and by washing with saturated brine. The obtained organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure. The resulting residue was subjected to preparative silica gel column chromatography, eluted with a mixed solvent of n-hexane/ethyl acetate (3:1, v/v) to obtain 2-cyclopropyl-7-fluoro-5-methyl-6-(1,3-thiazol-2-yl)-1,3-benzoxazole-4-carbonitrile (31 mg, 0.11 mmol, 31%) as a white solid. This was dissolved in dimethyl sulfoxide (0.7 ml), triethylamine (37 μl, 0.26 mmol) and (3S)-3-(dimethylamino)pyrrolidine (17 μl, 0.14 mmol) were added, followed by stirring at 90° C. under nitrogen atmosphere for 22 hours. After cooling to room temperature, ethyl acetate was added, followed by fractionation with water. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated away, the resulting residue was subjected to preparative thin-layer silica gel column chromatography and eluted with a mixed solvent of chloroform/methanol (20:1, v/v) to obtain the entitled compound (13 mg, 32%) as a white solid.

reactant | 6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.34 mmol, 100 mg | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C12H8BrFN2O
reactant | 2-tributylstannylthiazole | 0.37 mmol, 140 μl | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.003 mmol, 3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | 2,6-di-tert-butylcresol | 1 mg | C(C)(C)(C)C1(CC=CC(=C1O)C(C)(C)C)C | C15H26O
product | 2-cyclopropyl-7-fluoro-5-methyl-6-(1,3-thiazol-2-yl)-1,3-benzoxazole-4-carbonitrile | 0.11 mmol, 31 mg, 31% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C=2SC=CN2)C)C#N | C15H10FN3OS
